US07915443B2
5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)-N-[oxido(phenyl){3-[3-(trifluoromethyl)piperidin-1-yl]propyl}--sulfanylidene]nicotinamide
In a manner similar to that described for example 508, N-[(3-bromopropyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide and 3-(trifluoromethyl)piperidine were converted to the title compound.

reactant | N-[(3-bromopropyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | BrCCCS(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(C1=CC=CC=C1)=O | C29H24BrN3O4S
reactant | 3-(trifluoromethyl)piperidine | FC(C1CNCCC1)(F)F | C6H10F3N
product | 5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)-N-[oxido(phenyl){3-[3-(trifluoromethyl)piperidin-1-yl]propyl}--sulfanylidene]nicotinamide | CC1=C(OC=C1)C(=O)NC=1C=C(C=CC1)C#CC=1C=NC=C(C(=O)N=S(CCCN2CC(CCC2)C(F)(F)F)(C2=CC=CC=C2)=O)C1 | C35H33F3N4O4S
